US07282501B2
Step E: 3-[2-(2-tert-Butoxycarbonylamino-ethyl)-4-hydroxy-phenyl]-propionic acid methyl ester
To a solution of 3-[4-benzyloxy-2-(2-tert-butoxycarbonylamino-ethyl)-phenyl]-acrylic acid methyl ester (4.15 g, 10.1 mmol) in THF (100 mL) and MeOH (10 mL) was added 5% Pd—C (200 mg) in THF (10 mL). The resulting suspension was treated with hydrogen under balloon pressure for 18 h. The mixture was filtered through a pad of Celite and concentrated. The residue was purified by silica gel chromatography (EtOAc/hexanes, 6/4) to afford the title compound (1.20 g, 34%). 1H NMR (400 MHz, CDCl3): δ 1.44 (s, 9H), 2.57 (t, 2H, J=7.8 Hz), 2.77 (t, 2H, J=7.3 Hz), 2.88 (t, 2H, J=7.8 Hz), 3.33 (br s, 2H), 3.68 (s, 3H), 6.65 (br s, 1H), 6.67 (d, 1H, J=8.3 Hz), 7.02 (d, 1H, J=8.3 Hz). MS (ES+) m/z 324.1 [M+H]+.

reactant | 3-[4-benzyloxy-2-(2-tert-butoxycarbonylamino-ethyl)-phenyl]-acrylic acid methyl ester | 10.1 mmol, 4.15 g | COC(C=CC1=C(C=C(C=C1)OCC1=CC=CC=C1)CCNC(=O)OC(C)(C)C)=O | C24H29NO5
reactant | hydrogen | [H][H] | H2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 3-[2-(2-tert-Butoxycarbonylamino-ethyl)-4-hydroxy-phenyl]-propionic acid methyl ester | 1.20 g, 34% | COC(CCC1=C(C=C(C=C1)O)CCNC(=O)OC(C)(C)C)=O | C17H25NO5
